US07893020B2
(E) NaNd-Bis-Boc-L-Ornithyl-(3,4,5-trifluoro)-D-Phenylalanine Quinoline-3-amide
A solution of NaNd-bis-Boc-L-Ornithine (1.25 g, 3.7 mmol), triethylamine (0.57 mL, 4.1 mmol) and methylene chloride (60 mL) was stirred at 25° C. for 10 min, cooled to −10° C. and treated with ethyl chloroformate (0.36 mL, 3.7 mmol). The mixture was stirred at −10° C. for 2 hrs. (3,4,5-trifluoro)-D,L-phenylalanine Quinoline-3-amide Trifluoroacetate (1.31 g) was suspended in methylene chloride (20 mL) and neutralized with triethylamine (0.70 mL, 5.0 mmol). The resultant solution was added dropwise to the mixed anhydride and the mixture was allowed to warm up to 25° C. and stirred for an additional 1 hr. Saturated sodium bicarbonate (30 mL) was added, the organic layer was washed with water (30 mL), dried over anhydrous sodium sulfate, filtered and concentrated to dryness to afford crude product. TLC (silica gel Merck plates, diethyl ether:ethyl acetate=1:1) revealed the presence of two diastereoisomers. They were separated by column chromatography on silica gel with diethyl ether:ethyl acetate=3:1 to give the title compound (0.25 g) as white solid.

reactant | bis-Boc-L-Ornithine | 3.7 mmol, 1.25 g | C(=O)(OC(C)(C)C)N([C@@H](CCCN)C(=O)O)C(=O)OC(C)(C)C | C15H28N2O6
reactant | triethylamine | 4.1 mmol, 0.57 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 3.7 mmol, 0.36 mL | ClC(=O)OCC | C3H5ClO2
reactant | (3,4,5-trifluoro)-D,L-phenylalanine Quinoline-3-amide Trifluoroacetate | 1.31 g | FC(C(=O)O)(F)F.N1=CC(=CC2=CC=CC=C12)C(=O)N.FC=1C=C(CC(N)C(=O)O)C=C(C1F)F
reactant | triethylamine | 5.0 mmol, 0.70 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | Bis-Boc-L-Ornithyl-(3,4,5-trifluoro)-D-Phenylalanine Quinoline-3-amide | 0.25 g | N1=CC(=CC2=CC=CC=C12)C(=O)N.C(=O)(OC(C)(C)C)N([C@@H](CCCN)C(=O)N[C@H](CC1=CC(=C(C(=C1)F)F)F)C(=O)O)C(=O)OC(C)(C)C | InChI=1S/C24H34F3N3O7.C10H8N2O/c1-23(2,3)36-21(34)30(22(35)37-24(4,5)6)17(8-7-9-28)19(31)29-16(20(32)33)12-13-10-14(25)18(27)15(26)11-13;11-10(13)8-5-7-3-1-2-4-9(7)12-6-8/h10-11,16-17H,7-9,12,28H2,1-6H3,(H,29,31)(H,32,33);1-6H,(H2,11,13)/t16-,17+;/m1./s1
